datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([C:8]([H:21])([H:22])[H:23])[H:20])[H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([C:7]([C:8]([H:21])([H:22])[H:23])[H:20])[H:19])[H:11])([H:9])[H:10],65.103
[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[O:18][H:19]>>[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:11])[H:12])([H:9])[H:10].[H:8][O:18][H:19],1.531344
[C:0]([C:1]([C:2]([C:3](=[C:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[C:7]([H:19])[H:20])[H:18])[H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]([H:12])([H:13])[C:3]1([C:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[C:7]([H:19])[H:20])[H:18])[H:14],58.7434
[C:0]([O:1][O:2])([H:3])([H:4])[H:5]>>[C:0]([O:1][O:2][H:3])([H:4])[H:5],176.858
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[C:35]([H:36])([H:37])[H:38]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[H:18][C:35]([H:36])([H:37])[H:38],22.92832
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[O:7]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][O:7],35.9824
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])[H:8])[H:7].[C:15](=[C:16]([H:18])[H:19])[H:17]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])([H:8])[C:15](=[C:16]([H:18])[H:19])[H:17])[H:7],-3.59824
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7]([C:8]([c:9]1[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]1[H:23])[H:18])([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:8]([C:7]([H:15])([H:16])[H:17])([c:9]1[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]1[H:23])[H:18],48.9528
[C:0]([C:1]([C:2]([C:3]([O:4])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:0]([C:1]([C:2]([C:3]([O:4][H:10])([H:12])[H:13])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7],84.6842
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[H:14])([H:11])([H:12])[H:13]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][C:9]([C:8]([H:11])([H:12])[H:13])([C:10]([H:15])([H:16])[H:17])[H:14],41.4216
[O:0]([S:1])[H:2].[O:3][O:4][H:5]>>[H:2][O:3][O:4][H:5].[O:0][S:1],0.0
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:16])([H:14])[H:15])([H:12])[H:13])([O:6][O:7])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:16])([H:14])[H:15])[H:13])([O:6][O:7][H:12])[H:11])([H:8])([H:9])[H:10],123.428
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[O:10][H:11]>>[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5][H:9])[H:7])[H:6].[H:8][O:10][H:11],1.79912
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9]([H:11])[H:12])[H:10]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[C:8](=[C:9]([H:11])[H:12])[H:10])[H:5])[H:4],-6.10864
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:7].[C:17]([C:18]([C:19]([H:29])([H:30])[H:31])[c:20]1[c:21]([H:32])[c:22]([H:33])[c:23]([H:34])[c:24]([H:35])[c:25]1[H:36])([H:26])([H:27])[H:28]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[C:18]([C:17]([H:26])([H:27])[H:28])([C:19]([H:29])([H:30])[H:31])[c:20]1[c:21]([H:32])[c:22]([H:33])[c:23]([H:34])[c:24]([H:35])[c:25]1[H:36])[H:7],41.589
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:22])([H:23])[H:24])=[C:8]([C:9]([H:25])([H:26])[H:27])[C:10](=[C:11]([H:29])[H:30])[H:28])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:15])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]1([H:15])[C:3]([H:16])([H:17])[C:4]([H:18])([H:19])[C:5]([H:20])([H:21])[C:6]([C:7]([H:22])([H:23])[H:24])[C:8]1([C:9]([H:25])([H:26])[H:27])[C:10](=[C:11]([H:29])[H:30])[H:28])[H:14])([H:12])[H:13],81.2951
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6])([H:17])[H:18])([H:15])[H:16])([O:7][O:8][H:19])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])([O:7][O:8][H:19])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11].[O:5][O:6][H:15],119.244
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])=[C:6]([C:7]([H:20])([H:21])[H:22])[C:8]([H:23])([H:24])[H:25])([H:15])[H:16])([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]1([H:12])[C:2]([H:13])([H:14])[C:3]([H:15])([H:16])[C:4]([C:5]([H:17])([H:18])[H:19])[C:6]1([C:7]([H:20])([H:21])[H:22])[C:8]([H:23])([H:24])[H:25])([H:9])([H:10])[H:11],74.8936
